US06403580B1
4-[(3-chloro-4-fluoro-phenyl)amino]-7-(3-hydroxy-propyloxy)-6-nitro-quinazoline
3.00 ml of concentrated hydrochloric acid are added dropwise to 21.30 g of 4-[(3-chloro-4-fluoro-phenyl)amino]-7-[3-(tetrahydropyran-2-yloxy)-propyloxy]-6-nitro-quinazoline in 200 ml of methanol. A yellow precipitate is formed. The suspension is stirred for about another 3.5 hours at 50° C. For working up the methanol is distilled off in vacuo using a rotary evaporator. The residue is combined with ethyl acetate and some ice-water and made alkaline with sodium hydroxide solution. The organic phase is washed with water and saturated sodium chloride solution and left to stand overnight at ambient temperature, whereupon a yellow precipitate is formed. This is suction filtered, washed with ethyl acetate and dried. The filtrate is evaporated down and the evaporation residue is recrystallised from ethyl acetate. The crystals thus obtained are combined with the previously suction filtered precipitate and again recrystallised from ethyl acetate. The desired product is obtained in the form of slightly yellowish crystals.

reactant | hydrochloric acid | 3.00 ml | Cl | ClH
reactant | 4-[(3-chloro-4-fluoro-phenyl)amino]-7-[3-(tetrahydropyran-2-yloxy)-propyloxy]-6-nitro-quinazoline | 21.30 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCCOC1OCCCC1 | C22H22ClFN4O5
solvent | methanol | 200 ml | CO | CH4O
product | 4-[(3-chloro-4-fluoro-phenyl)amino]-7-(3-hydroxy-propyloxy)-6-nitro-quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])OCCCO | C17H14ClFN4O4
